US09278931B2
A) 3-(2-oxopiperidin-1-yl)benzoic acid
To a solution of methyl 3-(2-oxopiperidin-1-yl)benzoate (114 mg) described in a document (J. Med. Chem. 1997, 40, 331.) in THF (3.0 mL)-water (0.5 mL) was added lithium hydroxide monohydrate (61.5 mg). The mixture was stirred at room temperature overnight, and 10% citric acid solution was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (34.7 mg).

reactant | methyl 3-(2-oxopiperidin-1-yl)benzoate | 114 mg | O=C1N(CCCC1)C=1C=C(C(=O)OC)C=CC1 | C13H15NO3
reactant | water | 0.5 mL | O | H2O
reactant | lithium hydroxide monohydrate | 61.5 mg | O.[OH-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 3-(2-oxopiperidin-1-yl)benzoic acid | 34.7 mg | O=C1N(CCCC1)C=1C=C(C(=O)O)C=CC1 | C12H13NO3
